US05441953
7 g (0.02 moles) of (E)-6-(1,3-dihydro-4-amino-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoic acid and toluene (25 ml) are warmed gently to form a solution. A slight excess (1.05 molar equivalents) of 2-morpholinoethanol (3 g, 0.021 moles) and toluene (25 ml) are added. The reaction mixture is stirred for half an hour and then heated to reflux at an initial pot temperature of 117° C. (which increases a few degrees during reflux) under a Dean-Stark trap for 80 hours. The reaction mixture is cooled, washed with water (2×15 ml), 10% aqueous sodium bicarbonate (2×15 ml) and finally with water (15 ml). The toluene layer is stripped to a volume of about 20 ml in vacuo, n-hexane (30 ml) is added and the resulting slurry is aged at room temperature for 2 hours. The product is filtered, washed with n-hexane (ca. 10 ml) and dried in vacuo at 60° C. to yield 2-(morpholin-4-yl)ethyl (E)-6-(1,3-dihydro-4-amino-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate.

reactant | (E)-6-(1,3-dihydro-4-amino-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoic acid | 0.02 moles, 7 g | NC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)O)\C)OC)C)=O | C17H21NO5
reactant | 2-morpholinoethanol | 0.021 moles, 1.05 molar, 3 g | O1CCN(CC1)CCO | C6H13NO2
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(morpholin-4-yl)ethyl (E)-6-(1,3-dihydro-4-amino-6-methoxy-7-methyl-3-oxoisobenzofuran-5-yl)-4-methyl-4-hexenoate | NC1=C2C(OCC2=C(C(=C1C/C=C(/CCC(=O)OCCN1CCOCC1)\C)OC)C)=O | C23H32N2O6
